2165-10-13 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2165-10-12**] 02:12 PM
 CORDIS/INTRODUCER - START [**2165-10-12**] 02:30 PM
   Placed in ER
 ENDOSCOPY - At [**2165-10-12**] 04:00 PM
   Given a total of 100mcg of fentanyl and 4mg of versed in divided doses
   for procedure.
   A single superficial bleeding ulcer was found in the second part of the
   duodenum. Cauterized.
 DIALYSIS CATHETER - START [**2165-10-12**] 07:00 PM
   8 total units pRBC given since admission
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2165-10-12**] 05:59 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: (nodding to questions)  Comfortable, No HA, CP, SOB,
   Abd Pain. No change in sensation in extremities.
   Flowsheet Data as of  [**2165-10-13**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 95 (88 - 121) bpm
   BP: 134/83(94) {83/44(59) - 134/95(101)} mmHg
   RR: 16 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  3,842 mL
                                                                    604 mL
   PO:
   TF:
   IVF:
                                                                    158 mL
                                                                    132 mL
   Blood products:
                                                                    634 mL
                                                                    471 mL
   Total out:
                                                                    460 mL
                                                                    580 mL
   Urine:
                                                                    460 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,382 mL
                                                                     24 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, Calm
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   dried blood on thighs b/l
   Abdominal: Soft, Non-tender, Non-Distended, BS+
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Rectal tube:  Large volume maroon colored stool
   Labs / Radiology
   125 K/uL
   10.3 g/dL
   221 mg/dL
   2.9 mg/dL
   31 mEq/L
   4.8 mEq/L
   40 mg/dL
   104 mEq/L
   145 mEq/L
   27.8 %
   9.6 K/uL
        [image002.jpg]
                            [**2165-10-12**]  02:37 PM
                            [**2165-10-12**]  05:48 PM
                            [**2165-10-12**]  08:15 PM
                            [**2165-10-13**]  05:28 AM
   WBC
   9.6
   Hct
   23.2
   25.7
   27.8
   Plt
   125
   Cr
   2.9
   TropT
   0.40
   Glucose
   221
   Other labs: CK / CKMB / Troponin-T:192/18/0.40, Lactic Acid:3.6 mmol/L
   Assessment and Plan
   53yoM hx of CAD s/p 3 MI's, s/p recent cardiac arrest/cardiogenic shock
   3 weeks ago, ESRD on HD, DM2 who p/w hypovolemic shock, GIB, ST
   depressions and questionable hyperkalemia.
   .
   # GIB: Pt received 8 total pRBC since admission. Hct from 13 to 27.
   Scope yesterday revealed one duodenal ulcer that was oozing. Pt
   continues to have large volume maroon stools, thus source remains
   unclear. Pt remains hemodynamically stable.
   - GI consult with question for both repeat EGD and/or Colonoscopy
   - given recent cardiac arrest and current NSTEMI will transfuse to HCT
   30
   - Cont protonix drip
   - maintain MAP >65, neosynephrine if needed
   - Rechecking Lactate this AM
   - Repleting Ca, Mg
   - INR currently stable.
   .
   # NSTEMI: EKG demonstrated ST depressions in V2-V6 likely demand
   ischemia and setting of increasing elevated CK/troponin c/w NSTEMI.
   - holding  ASA and plavix as no recent stenting per [**Hospital1 49**] records in
   setting of GIB
   - TTE today
   - transfuse to goal of HCT 30
   - serial CE
   - repeat EKG
   - cont atorvastatin
   - hold procardia, lisinopril and nitro
   - hold ezetamibe and gemfibrazol until taking PO's
   .
   # Hyperkalemia: Resolved
   - Cont to monitor
   .
   # Diabetes: FS 160-220s
   - will adjust SSI
   .
   # ESRD:
   - Renal following for  HD
   .
   # Intubation: for airway protection, will remain intubated.
   - transition to CPAP
   - fentanyl for sedation
   - mechanical ventilation
   .
   #) Prophylaxis: PPI, Pneumoboots
   .
   #) FEN: NPO
   .
   #) Access: 2 PIVs; right femoral cordis; Right Subclavian HD line
   .
   #) Code Status: Full
   .
   #) Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2165-10-12**] 02:30 PM
   18 Gauge - [**2165-10-12**] 02:30 PM
   20 Gauge - [**2165-10-12**] 02:30 PM
   Dialysis Catheter - [**2165-10-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-14 05:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1u: inappropriate bump from 27.8 to 29.4 -> transfusing
   2nd u, post-transfusion HCT: 32.3 (total 6units since admission)
   - EGD demonstrated no further bleeding from above
   - Insulin SC adjusted.
   - Nephrology: no HD for a couple of days, would keep HBG range 10-12
   - Became febrile to 101.1 @ 1500 - started on Levo/Flagyl, following
   cultures.
   - Deferred trail of PSV; increased Vt to 550 and decreased FiO2 to 40%
   - KCl repleted x1
   -(pRBCs outdates on the following date: [**10-15**])
   - 1L of D5W for Na of 146
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-10-13**] 05:00 PM
   Metronidazole - [**2165-10-14**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-10-13**] 12:15 PM
   Midazolam (Versed) - [**2165-10-13**] 12:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-14**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 78 (78 - 106) bpm
   BP: 129/64(78) {93/49(59) - 150/77(95)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 83.7 kg
   Height: 64 Inch
             Total In:
                                                                  2,508 mL
                                                                  1,418 mL
   PO:
             TF:
   IVF:
                                                                  1,415 mL
                                                                  1,418 mL
   Blood products:
                                                                  1,032 mL
   Total out:
                                                                  2,490 mL
                                                                  1,150 mL
   Urine:
                                                                  2,490 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 559 (559 - 559) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Well nourished, Calm
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   dried blood on thighs b/l
   Abdominal: Soft, Non-tender, Non-Distended, BS+
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Rectal tube:  Large volume maroon colored stool
   Labs / Radiology
   125 K/uL
   10.9 g/dL
   250 mg/dL
   3.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   39 mg/dL
   106 mEq/L
   141 mEq/L
   30.8 %
   11.0 K/uL
        [image002.jpg]
                            [**2165-10-12**]  02:37 PM
                            [**2165-10-12**]  05:48 PM
                            [**2165-10-12**]  08:15 PM
                            [**2165-10-13**]  05:28 AM
                            [**2165-10-13**]  01:08 PM
                            [**2165-10-13**]  05:44 PM
                            [**2165-10-14**]  02:40 AM
   WBC
   9.6
   11.0
   Hct
   23.2
   25.7
   27.8
   29.4
   32.3
   30.8
   Plt
   125
   125
   Cr
   2.9
   3.3
   3.6
   3.5
   TropT
   0.40
   1.61
   Glucose
   221
   157
   130
   250
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:327/23/1.61, ALT / AST:24/39, Alk Phos / T Bili:54/1.2,
   Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:289 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53yoM hx of CAD s/p 3 MI's, s/p recent cardiac arrest/cardiogenic shock
   3 weeks ago, ESRD on HD, DM2 who p/w hypovolemic shock, GIB, ST
   depressions and questionable hyperkalemia.
   .
   # GIB: Pt received 8 total pRBC since admission. Hct from 13 to 27.
   Scope yesterday revealed one duodenal ulcer that was oozing. Pt
   continues to have large volume maroon stools, thus source remains
   unclear. Pt remains hemodynamically stable.
   - GI consult with question for both repeat EGD and/or Colonoscopy
   - given recent cardiac arrest and current NSTEMI will transfuse to HCT
   30
   - Cont protonix drip
   - maintain MAP >65, neosynephrine if needed
   - Rechecking Lactate this AM
   - Repleting Ca, Mg
   - INR currently stable.
   .
   # NSTEMI: EKG demonstrated ST depressions in V2-V6 likely demand
   ischemia and setting of increasing elevated CK/troponin c/w NSTEMI.
   - holding  ASA and plavix as no recent stenting per [**Hospital1 49**] records in
   setting of GIB
   - TTE today
   - transfuse to goal of HCT 30
   - serial CE
   - repeat EKG
   - cont atorvastatin
   - hold procardia, lisinopril and nitro
   - hold ezetamibe and gemfibrazol until taking PO's
   .
   # Hyperkalemia: Resolved
   - Cont to monitor
   .
   # Diabetes: FS 160-220s
   - will adjust SSI
   .
   # ESRD:
   - Renal following for  HD
   .
   # Intubation: for airway protection, will remain intubated.
   - transition to CPAP
   - fentanyl for sedation
   - mechanical ventilation
   .
   #) Prophylaxis: PPI, Pneumoboots
   .
   #) FEN: NPO
   .
   #) Access: 2 PIVs; right femoral cordis; Right Subclavian HD line
   .
   #) Code Status: Full
   .
   #) Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2165-10-12**] 02:30 PM
   18 Gauge - [**2165-10-12**] 02:30 PM
   20 Gauge - [**2165-10-12**] 02:30 PM
   Dialysis Catheter - [**2165-10-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-14 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiraory failure; GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2165-10-13**] 12:00 PM
 SPUTUM CULTURE - At [**2165-10-13**] 03:30 PM
 FEVER - 101.1
F - [**2165-10-13**] 03:30 PM
   Remains intubated, mechanically ventilated.  Thick yellow sputum via
   ETT.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT mechanical ventilation
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-10-13**] 05:00 PM
   Metronidazole - [**2165-10-14**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-10-13**] 12:15 PM
   Midazolam (Versed) - [**2165-10-13**] 12:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-10-14**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 79 (78 - 106) bpm
   BP: 135/68(83) {93/49(59) - 159/83(101)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 83.7 kg
   Height: 64 Inch
             Total In:
                                                                  2,508 mL
                                                                  1,748 mL
   PO:
             TF:
   IVF:
                                                                  1,415 mL
                                                                  1,748 mL
   Blood products:
                                                                  1,032 mL
   Total out:
                                                                  2,490 mL
                                                                  1,670 mL
   Urine:
                                                                  2,490 mL
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 559 (559 - 559) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   125 K/uL
   250 mg/dL
   3.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   39 mg/dL
   106 mEq/L
   141 mEq/L
   34.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2165-10-12**]  02:37 PM
                            [**2165-10-12**]  05:48 PM
                            [**2165-10-12**]  08:15 PM
                            [**2165-10-13**]  05:28 AM
                            [**2165-10-13**]  01:08 PM
                            [**2165-10-13**]  05:44 PM
                            [**2165-10-14**]  02:40 AM
                            [**2165-10-14**]  09:00 AM
   WBC
   9.6
   11.0
   Hct
   23.2
   25.7
   27.8
   29.4
   32.3
   30.8
   34.0
   Plt
   125
   125
   Cr
   2.9
   3.3
   3.6
   3.5
   TropT
   0.40
   1.61
   Glucose
   221
   157
   130
   250
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:327/23/1.61, ALT / AST:24/39, Alk Phos / T Bili:54/1.2,
   Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:289 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   GI bleed
   RESPIRATORY FAILURE -- intubated for airway protection.  HOpe to work
   towards SBT and extubation trial if tolerates.  Reduce sedation.  Check
   CXR.
   FEVER -- unclear source, although concern for respiratory infection
   (aspiration).  Check CXR.  Continue Levo/Flagyl.
   GI BLEED -- DU by EGD.  Received PRBC.  Plan PPI, monitor serial Hct.
   ANEMIA -- hemorrhagic, received 10 U PRBC.  Monitor serial Hct.
   CAD -- NSTEMI.  Secondary to profound anemia.  (Doubt primary event).
   Hct. > 30.  Monitor.  Hold ASA & Plavix pending clinical stability or
   GI bleed.  Control BP.
   RENAL FAILURE -- continue HD as per usual schedule.
   FLUIDS -- replete.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2165-10-12**] 02:30 PM
   18 Gauge - [**2165-10-12**] 02:30 PM
   20 Gauge - [**2165-10-12**] 02:30 PM
   Dialysis Catheter - [**2165-10-12**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2165-10-15 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated
   Nystatin for thrush
   HCT 34, stable
   Advanced diet to clears
   Echo: Mild symmetric left ventricular hypertrophy with regional
   systolic dysfunction
   c/w CAD. EF 35-40%
   Coag pos staph sputum; CXR with LLL PNA. Spiked and cultured
   DCd flagyl, started Vanc for coag pos staph
   Added Meropenem for GN coverage since intubated, recent prolonged
   hospital
   stay. PCN allergy confirmed by pt as nausea/vomiting
   Added Metoprolol, titrated up to 37.5 PO BID. 3 different home
   medication lists in chart. Pt not sure what he is on
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2165-10-14**] 08:00 AM
   Levofloxacin - [**2165-10-14**] 04:00 PM
   Vancomycin - [**2165-10-14**] 08:43 PM
   Meropenem - [**2165-10-14**] 11:57 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-10-14**] 04:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: No complaints, feeling well. No chest or abdominal
   pain. No SOB.
   Flowsheet Data as of  [**2165-10-15**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98
   HR: 90 (79 - 102) bpm
   BP: 152/77(96) {130/63(80) - 165/83(101)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 83.7 kg
   Height: 64 Inch
             Total In:
                                                                  2,560 mL
                                                                    117 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,500 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                    780 mL
   Urine:
                                                                  3,520 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 300 (300 - 460) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, Calm
   Eyes / Conjunctiva: EOMI, PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Diminshed pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   L basilar tactile fremmitus
   Abdominal: Soft, Non-tender, Non-Distended, BS+
   Extremities: Warm, Well perfused
   Skin:  Warm, No rashes
   Neurologic: Responds to: Verbal stimuli, Movement: of all four
   extremities grossly
   Rectal tube: Minimal volume maroon colored stool
   Labs / Radiology
   125 K/uL
   10.9 g/dL
   250 mg/dL
   3.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   39 mg/dL
   106 mEq/L
   141 mEq/L
   34.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2165-10-12**]  02:37 PM
                            [**2165-10-12**]  05:48 PM
                            [**2165-10-12**]  08:15 PM
                            [**2165-10-13**]  05:28 AM
                            [**2165-10-13**]  01:08 PM
                            [**2165-10-13**]  05:44 PM
                            [**2165-10-14**]  02:40 AM
                            [**2165-10-14**]  09:00 AM
                            [**2165-10-14**]  04:29 PM
   WBC
   9.6
   11.0
   Hct
   23.2
   25.7
   27.8
   29.4
   32.3
   30.8
   34.0
   34.0
   Plt
   125
   125
   Cr
   2.9
   3.3
   3.6
   3.5
   TropT
   0.40
   1.61
   1.30
   Glucose
   221
   157
   130
   250
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:113/6/1.30, ALT / AST:24/39, Alk Phos / T Bili:54/1.2,
   Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:289 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53yoM hx of CAD s/p 3 MI's, s/p recent cardiac arrest/cardiogenic shock
   3 weeks ago, ESRD on HD, DM2 who p/w hypovolemic shock, GIB, Troponin
   Bump
   .
   # GIB: Pt received 10 total pRBC since admission. Hct from 13 to 34.
   S/P EGD x2 with treatment of duodenal  ulcer, stable on 2^nd EGD.
   Hemodynamically stable with no further episodes of GI bleed.
   - IV PPi [**Hospital1 **]
   - transfusion goal of  HCT < 30
   - Repleting Ca, Mg PRN
   - GI Following
   .
   # NSTEMI: Likely [**1-26**] to demand ischemia in setting of low Hct and known
   CAD. Troponin peaked at 1.60 -> 1.3 in setting of ESRD.  EF now 30-40%
   from 51% from prior TTE.
   - Titrate up B-Blocker
   - Cont to hold ASA and plavix as no recent stenting per [**Hospital1 49**] records
   - transfuse to goal of HCT 30
   - following EKG
   - cont atorvastatin
   - hold procardia, lisinopril, nitro
   - hold ezetamibe and gemfibrazol until taking PO's
   .
   # + Coag Pos Staph: Afebrile overnight. Speciation pending.
   - Cont Vanc
   - Cover for gram negative HAP with [**Last Name (un) 1540**]/Flagyl
   - CXR today to r/o infiltrate
   #HTM: On Carvedilol as o/p per [**Hospital1 49**] records. Started on B-Blocker.
   - Titrated B-Blocker up given recent MI
   # Diabetes: FS 160-220s
   - adjusting fixed and SSI
   .
   # ESRD:  Pt has been on Tu, [**Last Name (un) 1554**], Sat schedule. Will d/w Renal
   - Renal following for  HD
   .
   #) Prophylaxis: PPI, Pneumoboots
   #) FEN: Diabetic, Renal, Cardiac Regular Diet
   #) Access: 2 PIVs; right femoral cordis (will pull today), subclavian
   HD line
   #) Code Status: Full
   #) Dispo: ICU to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2165-10-12**] 02:30 PM
   Dialysis Catheter - [**2165-10-12**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-15 12:26:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2165-10-14**] 04:30 PM
 INVASIVE VENTILATION - STOP [**2165-10-14**] 06:49 PM
   Extubated yesterday PM, remains extubated.
   No further clinical evidence for GI bleed.
                            History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Amoxicillin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2165-10-14**] 08:00 AM
   Levofloxacin - [**2165-10-14**] 04:00 PM
   Vancomycin - [**2165-10-14**] 08:43 PM
   Meropenem - [**2165-10-15**] 11:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-10-14**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-10-15**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 85 (83 - 102) bpm
   BP: 155/72(93) {131/63(82) - 165/82(97)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 83.7 kg
   Height: 64 Inch
             Total In:
                                                                  2,560 mL
                                                                    294 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,500 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                  1,610 mL
   Urine:
                                                                  3,520 mL
                                                                  1,510 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                   -960 mL
                                                                 -1,316 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 300 (300 - 460) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Hyperresonant: , No(t) Dullness : ), (Breath
   Sounds: Clear : right, Crackles : left, Bronchial: left, No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   155 K/uL
   141 mg/dL
   3.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   31 mg/dL
   108 mEq/L
   142 mEq/L
   33.8 %
   11.3 K/uL
        [image002.jpg]
                            [**2165-10-12**]  02:37 PM
                            [**2165-10-12**]  05:48 PM
                            [**2165-10-12**]  08:15 PM
                            [**2165-10-13**]  05:28 AM
                            [**2165-10-13**]  01:08 PM
                            [**2165-10-13**]  05:44 PM
                            [**2165-10-14**]  02:40 AM
                            [**2165-10-14**]  09:00 AM
                            [**2165-10-14**]  04:29 PM
                            [**2165-10-15**]  04:58 AM
   WBC
   9.6
   11.0
   11.3
   Hct
   23.2
   25.7
   27.8
   29.4
   32.3
   30.8
   34.0
   34.0
   33.8
   Plt
   125
   125
   155
   Cr
   2.9
   3.3
   3.6
   3.5
   3.5
   TropT
   0.40
   1.61
   1.30
   Glucose
   221
   157
   130
   250
   141
   Other labs: PT / PTT / INR:15.9/27.5/1.4, CK / CKMB /
   Troponin-T:113/6/1.30, ALT / AST:24/39, Alk Phos / T Bili:54/1.2,
   Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   GI bleed
   RESP FAILURE -- s/p successful extubation.  Monitor RR, SaO2.
   PNEUMONIA -- LLL, aspiration.  At risk for hospital acquired pathogens.
   Continue antimicrobials.
   GI BLEED -- s/p 10 U PRBC transfusion for bleed PUD.  s/p bicap.
   Clinically stable.
   NSTEMI -- likely due to demand ischemia.  Would like to resume ASA
   check with GI consultant.
   ANEMIA -- blood loss.  stable s/p tranfusion.  Monitor serial Hct.
   NUTRIONAL SUPPORT -- begin PO and advance as tolerated.
   RENAL FAILURE -- HD as required.
   NIDDM -- adjust insulin, monitor blood glucose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2165-10-12**] 02:30 PM
   Dialysis Catheter - [**2165-10-12**] 07:00 PM
   20 Gauge - [**2165-10-15**] 09:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Updated plans with patient.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 55 minutes
   Patient is critically ill